US06432988B1
a) 2-Cyano-2-(4-fluorophenyl)-1-(4-pyridyl)ethen-1-ol hydrochloride
17.3 g (0.75 mol) of metallic sodium were treated dropwise with 250 ml of absolute ethanol. 75.8 g (0.5 mol) of ethyl isonicotinate and 67.6 g (0.5 mol) of 4-fluorophenylacetonitrile were added to the ethoxide. The reaction mixture was stirred at 100° C. for 15 min. The mixture was then cooled in an ice bath and treated with 600 ml of dist. water. On acidifying to pH 1 using 90 ml of conc. HCl, the title compound deposited as a yellow precipitate. The precipitate was filtered off, washed with dist. water and dried over P2O5 in vacuo. Yield: 85.0 g (62%).

reactant | sodium | 0.75 mol, 17.3 g | [Na] | Na
reactant | ethyl isonicotinate | 0.5 mol, 75.8 g | C(C1=CC=NC=C1)(=O)OCC | C8H9NO2
reactant | 4-fluorophenylacetonitrile | 0.5 mol, 67.6 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | ethoxide | [O-]CC
reactant | HCl | 90 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-Cyano-2-(4-fluorophenyl)-1-(4-pyridyl)ethen-1-ol hydrochloride | Cl.C(#N)C(=C(O)C1=CC=NC=C1)C1=CC=C(C=C1)F | InChI=1S/C14H9FN2O.ClH/c15-12-3-1-10(2-4-12)13(9-16)14(18)11-5-7-17-8-6-11;/h1-8,18H;1H
